*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXE160ARA820MF80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXE160ARA820MF80G_20deg-C 1 2

C1 4 2 4.26e-05
C2 5 2 1.59e-05
C3 6 2 2.09e-05
R1 3 4 1.31e-02
R2 4 5 1.99e-01
R3 5 6 1.22e+00
L1 1 3 2.70e-09

.ENDS
